US09403807B2
Step A: tert-butyl 1-(1-(4-chlorophenyl)-1-(1-hydroxycyclopropyl)propyl)-1H-indol-4-ylcarbamate
To a solution of methyl 2-{4-[(tert-butoxycarbonyl)amino]-1H-indol-1-yl}-2-(4-chlorophenyl)butanoate (0.44 g, 1 mmol), as described in Example 3 step A, in THF (20 mL) was added titanium (IV) isopropoxide (0.3 g, 1 mmol) and the solution was cooled to 0° C. Ethylmagnesium bromide 3 N in ether (1.8 mL, 5 mmol) was then added via syringe pump over 1 hr period and the reaction was stirred for an additional 30 min at this temperature. The mixture was warmed into RT and stirred over night. The final mixture was diluted with EA, treated with saturated sodium bicarbonate solution, extracted with EA and DCM, dried over sodium sulfate and concentrated. The residue was purified by flash-chromatography over silica gel (eluted with hexanes/EA 95:5 to EA) to give the title compound. LC/MS m/z=441.0[M+H]+.

reactant | methyl 2-{4-[(tert-butoxycarbonyl)amino]-1H-indol-1-yl}-2-(4-chlorophenyl)butanoate | 1 mmol, 0.44 g | C(C)(C)(C)OC(=O)NC1=C2C=CN(C2=CC=C1)C(C(=O)OC)(CC)C1=CC=C(C=C1)Cl | C24H27ClN2O4
reactant | Ethylmagnesium bromide | 3 N | C(C)[Mg]Br
reactant | ether | 5 mmol, 1.8 mL | CCOCC | C4H10O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | EA | CC(OCC)=O | C4H8O2
catalyst | titanium (IV) isopropoxide | 1 mmol, 0.3 g | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | tert-butyl 1-(1-(4-chlorophenyl)-1-(1-hydroxycyclopropyl)propyl)-1H-indol-4-ylcarbamate | ClC1=CC=C(C=C1)C(CC)(C1(CC1)O)N1C=CC2=C(C=CC=C12)NC(OC(C)(C)C)=O | C25H29ClN2O3
